US08563547B2
(S)-2-(4-(4-(2-(2,2,2-trifluoroethoxy)ethoxy)phenoxy)piperidin-1-yl)-N-(2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazin-6-yl)acetamide (13)
Similar to the manipulation of example 1, with (S)-2-chloro-N-(2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazin-6-yl)acetamide (130 mg, 0.50 mmol) and 4-(4-(2-(2,2,2-trifluoroethoxy)ethoxy)phenoxy)piperidine (319 mg, 1.0 mmol) as crude materials, 75 mg title compound was generated and yield was 27%.

reactant | (S)-2-chloro-N-(2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazin-6-yl)acetamide | 0.50 mmol, 130 mg | ClCC(=O)N[C@H]1CN2C(OC1)=NC(=C2)[N+](=O)[O-] | C8H9ClN4O4
reactant | 4-(4-(2-(2,2,2-trifluoroethoxy)ethoxy)phenoxy)piperidine | 1.0 mmol, 319 mg | FC(COCCOC1=CC=C(OC2CCNCC2)C=C1)(F)F | C15H20F3NO3
product | (S)-2-(4-(4-(2-(2,2,2-trifluoroethoxy)ethoxy)phenoxy)piperidin-1-yl)-N-(2-nitro-6,7-dihydro-5H-imidazo[2,1-b][1,3]oxazin-6-yl)acetamide | 75 mg, yield was 27% | FC(COCCOC1=CC=C(OC2CCN(CC2)CC(=O)N[C@H]2CN3C(OC2)=NC(=C3)[N+](=O)[O-])C=C1)(F)F | C23H28F3N5O7
